US08471026B2
To a vial containing methyl 6-(benzylcarbamoyl)-5,6,7,8-tetrahydro-1,6-naphthyridine-2-carboxylate was added MeOH (1 mL) and hydroxylamine potassium salt (1 mL, 1.76 mmol, 1.76 M in MeOH) and the resulting mixture was shaken at rt for 13 h. The solution was quenched with acetic acid (0.200 mL, 3.52 mmol) before being concentrated. To the resulting residue was added DMSO (1.2 mL) and it was purified via prep-HPLC to yield N6-benzyl-N2-hydroxy-7,8-dihydro-1,6-naphthyridine-2,6(5H)-dicarboxamide (0.0113 g, 36.0%). LC-MS: (FA) ES+ 327; 1H NMR (Methanol-d4, 400 MHz) 7.86 (d, J=7.8 Hz, 1H), 7.70 (d, J=8.0 Hz, 1H), 7.25-7.19 (m, 5H), 4.68 (s, 2H), 4.39 (s, 2H), 3.79 (t, J=6.0 Hz, 2H), 3.03 (t, J=6.0 Hz, 2H).

reactant | methyl 6-(benzylcarbamoyl)-5,6,7,8-tetrahydro-1,6-naphthyridine-2-carboxylate | C(C1=CC=CC=C1)NC(=O)N1CC=2C=CC(=NC2CC1)C(=O)OC | C18H19N3O3
reactant | hydroxylamine potassium salt | 1.76 mmol, 1.76 M, 1 mL | [K].NO
reactant | acetic acid | 3.52 mmol, 0.200 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 1 mL | CO | CH4O
product | N6-benzyl-N2-hydroxy-7,8-dihydro-1,6-naphthyridine-2,6(5H)-dicarboxamide | 0.0113 g, 36.0% | C(C1=CC=CC=C1)NC(=O)N1CC=2C=CC(=NC2CC1)C(=O)NO | C17H18N4O3
